US08278343B2
Preparation 10: 3-Hydroxymethyl-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (non racemic)
Acetyl chloride (80.2 mL, 1130 mmol) was added to a suspension of 3-hydroxymethyl-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid (210.0 g, 751.9 mmol) (see Preparation 9) in ethanol (2100 mL) and the reaction mixture was heated at 80° C. for 4 hours. Water (200 mL) was added then ethanol was removed by concentration under reduced pressure. The aqueous residue was partitioned between ethyl acetate (2 L) and saturated aqueous NaHCO3 (1500 mL). The organic layer was separated, washed with water (1500 mL) then concentrated under reduced pressure to afford the title compound as a colourless oil (140.7 g, 61%). (99.3:0.7 ratio of isomers)

reactant | Acetyl chloride | 1130 mmol, 80.2 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-hydroxymethyl-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid | 751.9 mmol, 210.0 g | OCC1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)C(=O)O | C14H17NO5
reactant | Water | 200 mL | O | H2O
solvent | ethanol | 2100 mL | C(C)O | C2H6O
product | 3-Hydroxymethyl-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | 140.7 g, 61% | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CO | C16H21NO5
